Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ w/ PMH of nonischemic CM (EF 45-50%, ___, IDDM 
(poorly controlled), HTN, HLD who presents after a syncopal 
episode.  
 On day of admission at 2PM, patient had acute LOC. He reports 
he was visiting his niece, and was sitting in a chair. He began 
feeling dizzy and had a coughing spell w/ associated SOB. No 
associated CP, palpitations. His niece heard a thump, and found 
him gurgling at the mouth with unresponsiveness. The episode 
lasted approximately 5 minutes after which time he woke up. 
Patient states that he was seated when he awoke. He stated that 
in the past he had a similar episode that required ICU admission 
for heart failure. He was taken to urgent care by his niece, and 
referred for further workup. No history of seizures. No other 
recent syncopal events. No urinary incontinence, tongue biting, 
cheek biting.  
 He reported that he recently had a viral illness with mild 
cough and subjective fevers last week. He currently feels back 
to his baseline, however feels tired. He does note an episode of 
bradycardia ___ years ago requiring hospitalization.  
 Of note has home O2, only wears when SOB or at night.  
 
 In the ED, initial vitals were: 96.8 60 168/93 18 97% RA  
 - Labs notable for:  
 Troponin (-) x 2  
 Chem 7 wnl  
 TSH 2.1  
 7.5 > 13.4/43.1 < 196  
 UA w/ 300 glucose  
 - Imaging was notable for:  
 CT Head  
 1. No acute intracranial abnormalities.  
 2. Mild paranasal sinus opacification.  
 3. Suggestion of sebaceous cyst posterior neck base, new since 
prior,  
 clinically correlate.  
 CXR  
 Mild cardiomegaly, congestion with mild pulmonary edema.  
 TTE  
 IMPRESSION:  
 1) Mild global LV systolic dysfunction with regional variation 
in intrinsic myocardial contractility in setting of moderate LV 
dilation c/w diffuse cardiomyopathic process.  
 2) Grade II LV diastolic dysfunction with elevated LVEDP.  
 - Cardiology was consulted.  
 - Patient was given: furosemide 40 PO x 4, losartan, 
allopurinol, aspirin, carvedilol, atorvastatin, insulin  
 - Vitals prior to transfer:97.9 134/40 16 95% RA  
 Upon arrival to the floor, He denies any chest pain, shortness 
of breath currently.  

 
Past Medical History:
 Hypertension  
 Cardiomyopathy  
 Gout  
 Allergic rhinitis  
 Constipation  
 Osteoarthritis of right knee  
 CKD (chronic kidney disease) stage 3, GFR ___ ml/min  
 Hyperparathyroidism due to renal insufficiency  
 Type II diabetes mellitus with nephropathy  
 Cataract  
 Pinguecula  
 Pterygium  
 Osteopenia  
 OSA (obstructive sleep apnea)  
 Advanced care planning/counseling discussion  
 CHF (congestive heart failure)  
 POAG (primary open-angle glaucoma)  
 Hyperlipidemia  
 Gynecomastia, male  
 Insulin long-term use  
 Type 2 diabetes mellitus with polyneuropathy  
 Uncontrolled type 2 diabetes mellitus with stage 3 chronic 
kidney disease, with long-term current use of insulin  
 Nuclear sclerosis of both eyes  

 
Social History:
___
Family History:
 Noncontributory 
 
Physical Exam:
ADMISSION  PHYSICAL EXAM:  
 Vital Signs: 97.9 152/85 63 20 92% 2L  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII grossly intact, MAE. 

DISCHARGE PHYSICAL EXAM: 
 VS: 97.9 152/85 63 20 92% 2L
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 Ext: Warm, well perfused, 1+ pitting edema bilaterally  
 Neuro: CNII-XII grossly intact 
 
Pertinent Results:
Admission labs:

___ 02:35AM   cTropnT-<0.01
___ 10:54AM   ___
___ 10:54AM   ___ PTT-29.0 ___
___ 10:54AM   WBC-7.5 RBC-5.32 HGB-13.4* HCT-43.1 MCV-81* 
MCH-25.2* MCHC-31.1* RDW-18.1* RDWSD-51.0*
___ 10:54AM   TSH-2.1
___ 10:54AM   ALBUMIN-4.0 CALCIUM-10.0 PHOSPHATE-2.9 
MAGNESIUM-2.0
___ 10:54AM   ALT(SGPT)-28 AST(SGOT)-24 LD(LDH)-215 
CK(CPK)-284 ALK PHOS-154* TOT BILI-0.7
___ 10:54AM   GLUCOSE-253* UREA N-14 CREAT-1.2 SODIUM-141 
POTASSIUM-4.2 CHLORIDE-102 TOTAL CO2-29 ANION GAP-14

 - ECG: sinus, HR 60, prolonged PR, qtc 472, diffuse T wave 
flattening, biphasic atria

TTE ___
The left atrium is mildly dilated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity is 
moderately dilated. There is mild global left ventricular 
hypokinesis (LVEF = 45 - 50 %). Tissue Doppler imaging suggests 
an increased left ventricular filling pressure (PCWP>18mmHg). 
Doppler parameters are most consistent with Grade II (moderate) 
left ventricular diastolic dysfunction. Right ventricular 
chamber size and free wall motion are normal. There is abnormal 
septal motion/position. The number of aortic valve leaflets 
cannot be determined. There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve appears 
structurally normal with trivial mitral regurgitation. The 
pulmonary artery systolic pressure could not be determined. 
There is a very small pericardial effusion. There are no 
echocardiographic signs of tamponade. 

 IMPRESSION: 
 1) Mild global LV systolic dysfunction with regional variation 
in intrinsic myocardial contractility in setting of moderate LV 
dilation c/w diffuse cardiomyopathic process.
 2) Grade II LV diastolic dysfunction with elevated LVEDP.  

___ CXR  
Mild cardiomegaly, congestion with mild pulmonary edema. 

___ CT head
IMPRESSION: 
1. No acute intracranial abnormalities. 
2. Mild paranasal sinus opacification. 
3. Suggestion of sebaceous cyst posterior neck base, new since 
prior, 
clinically correlate. 

Discharge labs:

___ 06:20AM BLOOD WBC-8.7 RBC-5.41 Hgb-13.8 Hct-43.6 
MCV-81* MCH-25.5* MCHC-31.7* RDW-17.6* RDWSD-50.7* Plt ___
___ 06:20AM BLOOD Glucose-146* UreaN-20 Creat-1.4* Na-147* 
K-3.9 Cl-104 HCO3-30 AnGap-17
___ 06:20AM BLOOD Calcium-9.7 Phos-3.6 Mg-2.___ w/ PMH of nonischemic CM (EF 45-50%, ___, IDDM 
(poorly controlled), HTN, HLD who presents after a syncopal 
episode. Work up unremarkable for cardiogenic or malignant 
causes of syncope.
  
# Syncope: Presents after episode of syncope with pre-syncopal 
symptoms. NCHCT negative, TTE in ED negative for valvular 
dysfunction, EF 45-50%. Trops negative, EKG unremarkable. 
Orthostatic vitals negative in ED, presentation not consistent 
with seizure. He was monitored on telemetry and there were no 
findings except PVCs. Likely due to vasovagal episode in the 
setting of a coughing spell. On discharge, he was able to 
ambulate well. 

# sCHF: No evidence of acute exacerbation. TTE in ED with EF 
45-50%. Continued home carvedilol, imdur, losartan, furosemide  

# DM: Last A1c of 8 in ___. Continued home insulin regimen. 
Held home tradjenta.  
 
# HTN: Continued home imdur, losartan, carvedilol, amlodipine  
 
# CKD: Baseline 1.4-1.6. Improved to 1.2 on admission  

CHRONIC ISSUES:  
 # BPH: continued tamsulosin  
 # HLD: continued ASA, atorvastatin  
 # GOUT: continued home allopurinol 

=====================
Transitional issues:
=====================
- Recommend outpatient event monitor to further evaluate for 
rare arrhythmia
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Tamsulosin 0.4 mg PO QHS 
2. Tradjenta (linagliptin) 5 mg oral DAILY 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Carvedilol 25 mg PO BID 
5. Atorvastatin 80 mg PO QPM 
6. amLODIPine 10 mg PO DAILY 
7. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
8. Losartan Potassium 100 mg PO DAILY 
9. Allopurinol ___ mg PO DAILY 
10. Glargine 40 Units Bedtime
Humalog 14 Units Breakfast
Humalog 22 Units Lunch
Humalog 14 Units Dinner
11. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
12. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
13. Calcitriol 0.5 mcg PO EVERY OTHER DAY 
14. Calcitriol 1 mcg PO EVERY OTHER DAY 
15. Furosemide 40 mg PO BID 
16. Vitamin D 1000 UNIT PO DAILY 
17. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Glargine 40 Units Bedtime
Humalog 14 Units Breakfast
Humalog 22 Units Lunch
Humalog 14 Units Dinner 
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob  
3.  Allopurinol ___ mg PO DAILY  
4.  amLODIPine 10 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 80 mg PO QPM  
7.  Calcitriol 0.5 mcg PO EVERY OTHER DAY  
8.  Calcitriol 1 mcg PO EVERY OTHER DAY  
9.  Carvedilol 25 mg PO BID  
10.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
11.  Furosemide 40 mg PO BID  
12.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
13.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
14.  Losartan Potassium 100 mg PO DAILY  
15.  Tamsulosin 0.4 mg PO QHS  
16.  Tradjenta (linagliptin) 5 mg oral DAILY  
17.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
syncope

Secondary:
systolic CHF

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure caring for you at ___. You were admitted 
because you lost consciousness. You had an echocardiogram of 
your heart and a CT scan of your brain, which did not show any 
abnormalities. Please follow up with your PCP and cardiologist 
as scheduled.

Your ___ team
 
Followup Instructions:
___